US07291635B2
To a solution of the title F compound, ((S)-2-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-phenyl}-1-pentylcarbamoyl-ethyl)-carbamic acid t-butyl ester (77 mg, 0.127 mmol) in CH2Cl2 (1 mL) is added TFA (1 mL). After 30 min, the solvent is removed under stream of nitrogen. The residue is partitioned between EtOAc and saturated aqueous NaHCO3. The organic solution is washed with brine, dried over anhydrous MgSO4 and concentrated to yield (S)-2-amino-3-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-phenyl}-N-pentyl-propionamide as a clear oil: [M+1]+=503.

reactant | ((S)-2-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-phenyl}-1-pentylcarbamoyl-ethyl)-carbamic acid t-butyl ester | 0.127 mmol, 77 mg | C(C)(C)(C)OC(N[C@@H](CC1=CC(=CC=C1)CN1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O)C(NCCCCC)=O)=O | C30H42N4O7S
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-amino-3-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-phenyl}-N-pentyl-propionamide | N[C@H](C(=O)NCCCCC)CC1=CC(=CC=C1)CN1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O | C25H34N4O5S
